US07425638B2
Hydrochloric acid (10 mL, 40 mmol, 4 M in 1,4-dioxane) was added to a cooled (0° C.) solution of [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-tert-butyloxycarbonylpiperazin-1-yl]-methanone in 1,4-dioxane (10 mL). The mixture was stirred at room temperature overnight. Evaporation of the solvent gave [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-(piperazin-1-yl)-methanone hydrochloride as an off-white solid (1.10 g, 98% yield).

reactant | Hydrochloric acid | 40 mmol, 4 M, 10 mL | Cl | ClH
reactant | [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-tert-butyloxycarbonylpiperazin-1-yl]-methanone | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)C(F)(F)F)OCC | C34H35Cl2F3N4O4
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-(piperazin-1-yl)-methanone hydrochloride | 1.10 g, 98% yield | Cl.ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCNCC1)C1=C(C=C(C=C1)C(F)(F)F)OCC | InChI=1S/C29H27Cl2F3N4O2.ClH/c1-2-40-24-17-20(29(32,33)34)7-12-23(24)27-36-25(18-3-8-21(30)9-4-18)26(19-5-10-22(31)11-6-19)38(27)28(39)37-15-13-35-14-16-37;/h3-12,17,25-26,35H,2,13-16H2,1H3;1H
